US07964698B2
A 150 ml hydrogenation bottle was charged with 11.3 g (0.021 mol) 1,4-bis[4-(4-nitrophenoxy)phenoxy]benzene, 100 ml dry THF, and 0.5 g 10% Pd—C. The bottle was placed in a Parr-hydrogenator and the nitro group was reduced under H2-atmosphere (50 psi) in 5 h. at room temperature. The THF solution was filtered over a short silica-gel/celite patch and the THF was removed by distillation. Pure 1,4-bis[4-(4-aminophenoxy)phenoxy]benzene (P3) was obtained after recrystallization from acetone/water (95/5) as off white crystals. Yield: 8.6 g (86%). Mp: 170° C.; IR(KBr): vmax 3384, 3316, 1499, 1275, 1223, 1193, 1105, 1097, 865, 846, 827 cm−1; 1H-NMR (CDCl3) δ (ppm): 3.55 (s, 4H), 6.64 (d, 4H, J=9 Hz), 6.83 (d, 4H, J=9 Hz), 6.87-6.93 (m, 12H); 13C-NMR (CDCl3) δ (ppm); 116.2. 118.6, 119.5, 119.7, 119.8, 120.5, 142.4, 149.1, 152.2, 153.1, 154.3.

reactant | 1,4-bis[4-(4-nitrophenoxy)phenoxy]benzene | 0.021 mol, 11.3 g | [N+](=O)([O-])C1=CC=C(OC2=CC=C(OC3=CC=C(C=C3)OC3=CC=C(C=C3)OC3=CC=C(C=C3)[N+](=O)[O-])C=C2)C=C1 | C30H20N2O8
catalyst | Pd—C | 0.5 g | [Pd] | Pd
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1,4-bis[4-(4-aminophenoxy)phenoxy]benzene | NC1=CC=C(OC2=CC=C(OC3=CC=C(C=C3)OC3=CC=C(C=C3)OC3=CC=C(C=C3)N)C=C2)C=C1 | C30H24N2O4
